* High-Performance Op-Amp — Three-Stage with Class-AB Output
* ±15V dual supply, 600Ω load
* All component values optimized by DE. Do not hardcode values.

* ===== Supply =====
Vdd vdd 0 DC 15
Vss vss 0 DC -15

* ===== Input signal sources =====
Vdiff diff_sig 0 DC 0 AC 0.5
Vcm cm_sig 0 DC 0 AC 0

* Input summing network: inp = diff + cm, inm = -diff + cm
Einp inp 0 POLY(2) diff_sig 0 cm_sig 0 0 1 1
Einm inm 0 POLY(2) diff_sig 0 cm_sig 0 0 -1 1

* ===== First stage: PMOS diff pair + NMOS cascode mirror load =====
* PMOS diff pair (PMOS input for better CMRR with NMOS tail)
M1 d1 inp tail vdd PMOS W={W1}u L={L1}u
M2 d2 inm tail vdd PMOS W={W1}u L={L1}u
* NMOS active load (current mirror)
M3 d1 d1 vss vss NMOS W={W3}u L={L3}u
M4 d2 d1 vss vss NMOS W={W3}u L={L3}u
* PMOS tail current source
M5 tail pbias vdd vdd PMOS W={W5}u L={L5}u

* ===== Second stage: common-source gain =====
M6 d6 d2 vdd vdd PMOS W={W6}u L={L6}u
M8 d6 nbias vss vss NMOS W={W8}u L={L8}u

* ===== Third stage: Class-AB push-pull output =====
M9 out d6 vdd vdd PMOS W={W9}u L={L9}u
M10 out nbias2 vss vss NMOS W={W10}u L={L10}u

* ===== Compensation =====
* Inner Miller (stage 2 to stage 1 output)
Cc1 d2 comp1 {Cc1}
Rc1 comp1 d6 {Rc1}
* Outer Miller (stage 3 to stage 2 output)
Cc2 d6 comp2 {Cc2}
Rc2 comp2 out {Rc2}

* ===== Bias generation =====
* PMOS tail bias
Ibias1 pbias vss {Ibias1}
Mbias1 pbias pbias vdd vdd PMOS W={Wbias1}u L={Lbias1}u
* NMOS current source bias (stage 2)
Ibias2 vdd nbias {Ibias2}
Mbias2 nbias nbias vss vss NMOS W={Wbias2}u L={Lbias2}u
* NMOS current source bias (stage 3 output)
Ibias3 vdd nbias2 {Ibias3}
Mbias3 nbias2 nbias2 vss vss NMOS W={Wbias3}u L={Lbias3}u

* ===== Load =====
RL out 0 600
CL out 0 100p

* ===== Models (Level 1 CMOS) =====
.model NMOS NMOS (LEVEL=1 VTO=0.7 KP=110u GAMMA=0.4 LAMBDA=0.04 PHI=0.65 TOX=9e-9)
.model PMOS PMOS (LEVEL=1 VTO=-0.7 KP=50u GAMMA=0.57 LAMBDA=0.05 PHI=0.65 TOX=9e-9)

* ===== Analysis =====
.control
* Operating point
op

* Bias checks
let vgs1 = v(inp) - v(tail)
let vds1 = v(d1) - v(tail)
let vgs5 = v(pbias) - v(vdd)
let vds5 = v(tail) - v(vdd)
let vgs6 = v(d2) - v(vdd)
let vds6 = v(d6) - v(vdd)
let vgs9 = v(d6) - v(vdd)
let vds9 = v(out) - v(vdd)
let vgs10 = v(nbias2) - v(vss)
let vds10 = v(out) - v(vss)

echo "RESULT_VGS1" $&vgs1
echo "RESULT_VDS1" $&vds1
echo "RESULT_VGS5" $&vgs5
echo "RESULT_VDS5" $&vds5
echo "RESULT_VGS6" $&vgs6
echo "RESULT_VDS6" $&vds6
echo "RESULT_VGS7" $&vgs10
echo "RESULT_VDS7" $&vds10

* Power
let pwr_mw = (abs(i(Vdd)) + abs(i(Vss))) * 15 * 1000
echo "RESULT_POWER_MW" $&pwr_mw

* AC analysis (differential: Vdiff=0.5, Vcm=0)
ac dec 200 1 1G

meas ac dc_gain_db find vdb(out) at=10
meas ac gbw_hz when vdb(out)=0 fall=1
meas ac phase_at_gbw find vp(out) at=$&gbw_hz

let phase_margin = 180 + phase_at_gbw
echo "RESULT_PHASE_MARGIN" $&phase_margin

* Save DC gain for CMRR
set saved_dc_gain = "$&dc_gain_db"

* CMRR: switch to common-mode (Vdiff=0, Vcm=0.5)
alter @Vdiff[acmag] = 0
alter @Vcm[acmag] = 0.5
ac dec 200 1 1G
meas ac cm_gain_db find vdb(out) at=10
let cmrr_val = $saved_dc_gain - cm_gain_db
echo "RESULT_CMRR_DB" $&cmrr_val

* Restore differential for DC sweep
alter @Vdiff[acmag] = 0.5
alter @Vcm[acmag] = 0

* DC sweep for output swing
dc Vdiff -14 14 0.05
meas dc vout_min min v(out)
meas dc vout_max max v(out)
let swing = vout_max - vout_min
echo "RESULT_SWING" $&swing

echo "RESULT_DONE"
quit
.endc

.end
